US05496854
In the first step (as in the Example 4) 1 g (43 mmol) of sodium was dissolved in 25 ml of 2-methoxyethanol. An amount of 3.0 g (22 mmol) of methyl 4-hydroxy-benzoate was added, producing 2-methoxyethyl 4-hydroxybenzoate, as a colourless oil, in essentially quantitative yield.

reactant | sodium | 43 mmol, 1 g | [Na] | Na
reactant | methyl 4-hydroxy-benzoate | 22 mmol, 3.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-methoxyethanol | 25 ml | COCCO | C3H8O2
product | 2-methoxyethyl 4-hydroxybenzoate | quantitative yield | OC1=CC=C(C(=O)OCCOC)C=C1 | C10H12O4
